US07507732B2
Preparation of Intermediate 2-chloro-6,7-dihydro-5H-cyclopenta[b]pyridine N-oxide (I-1a)
A solution of m-chloroperbenzoic acid 70% (520.9 mg, 2.113 mmol) in 5 mL of CH2Cl2 was added drop wise to a stirring solution of 2-chloro-6,7-dihydro-5H-cyclopenta[b]pyridine (295 mg, 1.921 mmol) in 3 mL of CH2Cl2 and the resulting solution was allowed to stir at room temperature overnight. The reaction mixture was quenched with a saturated aqueous solution of NaHCO3 and the CH2Cl2 layer was separated. The aqueous phase was then extracted with CH2Cl2 (3×), and the combined organic extracts were washed with brine and then dried over anhydrous Na2SO4. After removing solvent at reduced pressure, the residue was purified by preparative TLC (eluting with 70% EtOAc/Hexane) to afford the title compound (I-1a).

reactant | m-chloroperbenzoic acid | 2.113 mmol, 520.9 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 2-chloro-6,7-dihydro-5H-cyclopenta[b]pyridine | 1.921 mmol, 295 mg | ClC1=CC=C2C(=N1)CCC2 | C8H8ClN
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | 2-chloro-6,7-dihydro-5H-cyclopenta[b]pyridine N-oxide | ClC1=CC=C2C(=[N+]1[O-])CCC2 | C8H8ClNO
